US09056873B2
In a 30 mL sealed cap glass tube, tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (150 mg, 0.301 mmol), 2,3-dimethyl-5-(tributylstannyl)-2H-thieno[3,2-c]pyrazole (265 mg, 0.601 mmol) and tetrakis(triphenylphosphine)palladium(0) (174 mg, 0.150 mmol) were dissolved in toluene (5 mL). The cap was sealed and the reaction mixture was heated at 90° C. in an oil bath for 2 hours. The mixture was concentrated to give the intermediate, tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-4-(2,3-dimethyl-2H-thieno[3,2-c]pyrazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dissolved in TFA (5 mL) and the reaction mixture was stirred for 90 minutes. The mixture was concentrated, dissolved in DMSO (5 mL), and purified via preparatory HPLC eluting with a gradient of 20-30% ACN (0.035% TFA) and H2O (0.05% TFA). The pure fractions were combined, evaporated to a minimal volume, and lyophilized to give a TFA salt of the title compound as a white solid (108 mg, 68.0%). 1H NMR (400 MHz, DMSO-d6) ppm 1.49-2.04 (m, 8H), 2.45 (s, 3H), 3.84 (br s, 1H), 3.92 (s, 3H), 4.27 (br s, 1H), 4.35-4.51 (m, 2H), 7.08 (d, J=6.06 Hz, 1H), 7.78 (br s, 3H), 8.60 (s, 1H), 9.25 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C20H23FN6OS, 415. found, 415.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.301 mmol, 150 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 2,3-dimethyl-5-(tributylstannyl)-2H-thieno[3,2-c]pyrazole | 0.601 mmol, 265 mg | CN1N=C2C(=C1C)SC(=C2)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.150 mmol, 174 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-(((1R,2S)-2-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-4-(2,3-dimethyl-2H-thieno[3,2-c]pyrazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC3=NN(C(=C3S1)C)C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H39FN6O5S
